US06627645B2
1-(2-Hydroxy-phenyl)-ethanone oxime (24)
Hydroxylammoniumchloride (6.96 g, 100 mmol) and sodium acetate.3H2O (13.6 g, 100 mmol) were dissolved in 150 mL ethanol:water (7:3) and added to a solution of 2-hydroxyacetophenone (6.81 g, 50 mmol) in 50 mL ethanol:water (7:3). The pH was adjusted to 4-5 with 4N HCl (˜10 mL) and the reaction mixture was then heated to reflux (100° C.) for 1 hour. The oil bath was removed and the mixture was left overnight with stirring. Ethanol was partly removed by evaporation and the aqueous phase was extracted with ethyl acetate two times. The combined organic phases were dried over magnesium sulphate and evaporated to dryness to produce 7.55 g of pure 24.

reactant | Hydroxylammoniumchloride | 100 mmol, 6.96 g | [Cl-].O[NH3+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-hydroxyacetophenone | 50 mmol, 6.81 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | HCl | 4N, ˜10 mL | Cl | ClH
solvent | ethanol water | 150 mL | C(C)O.O
solvent | ethanol water | 50 mL | C(C)O.O
product | 1-(2-Hydroxy-phenyl)-ethanone oxime | OC1=C(C=CC=C1)C(C)=NO | C8H9NO2
